US05886014
N-Methyl-4-hydroxy-2,3,5-trimethylaniline
A solution of 15 g of N-t-butoxycarbonyl-4-hydroxy-2,3,5-trimethylaniline (prepared as described in Preparation 13) in 200 ml of dehydrated tetrahydrofuran was added to a suspension of 6.8 g of lithium aluminum hydride in 300 ml of dehydrated tetrahydrofuran, whilst ice-cooling, and the resulting mixture was stirred at room temperature for 3 hours, after which it was heated under reflux for 2 hours. At the end of this time, a mixture of 10 ml of water and 30 ml of tetrahydrofuran was added to the reaction mixture in order to destroy any excess of lithium aluminum hydride. The reaction mixture was then stirred at room temperature for 1.5 hours, after which insoluble materials were filtered off with the aid of a Celite (trade mark) filter aid. These materials were washed with ethyl acetate, and the ethyl acetate washings were combined and dried over anhydrous sodium sulfate. The solvent was removed by distillation under reduced pressure, and the resulting residue was purified by column chromatography through silica gel using a 1:3 by volume mixture of ethyl acetate and hexane as the eluent, to give 5.1 g of the title compound, melting at 120°-122° C.

reactant | N-t-butoxycarbonyl-4-hydroxy-2,3,5-trimethylaniline | 15 g | C(C)(C)(C)OC(=O)NC1=C(C(=C(C(=C1)C)O)C)C | C14H21NO3
reactant | lithium aluminum hydride | 6.8 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 10 ml | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | N-Methyl-4-hydroxy-2,3,5-trimethylaniline | 5.1 g | CNC1=C(C(=C(C(=C1)C)O)C)C | C10H15NO
